US04818766
16.6 g (50 mmol) of 1,4-dihydro-2,6-dimethyl-4-(m-nitrophenyl)-3,5-pyridine-dicarboxylic acid monomethyl ester, 19.4 g (50 mmol) of crude 1-(2-bromoethoxy)-4-[2-(tertiary butoxycarbonylamino)-2-methylpropoxy]-benzene 13.8 g of potassium carbonate and 0.6 g of triethylbenzylammonium chloride are heated at boiling in 500 ml of acetonitrile for 16 hours while stirring and under reflux. The reaction mixture is filtered, concentrated by evaporation and dissolved in 500 ml of ethyl acetate. After washing with 100 ml of water and drying (MgSO4), the solvent is evaporated off and 50 ml of dioxan and 100 ml of formic acid are added to the crude residue without the latter being further purified, and the whole is left to stand in the dark at room temperature for 7-10 hours. After concentration by evaporation in vacuo, the residue is dissolved in 2N hydrochloric acid and the solution is extracted with toluene. The aqueous phase is rendered alkaline with 2N sodium hydroxide solution and extracted with ethyl acetate. After drying the solution (MgSO4) and concentration by evaporation, an oil is obtained from which 1,4-dihydro-2,6-dimethyl-4-(m-nitrophenyl)-pyridine-3,5-dicarboxylic acid 3-{2-[p-(2-amino-2-methylpropoxy)-phenoxy]-ethyl}-ester 5-methyl ester, which has a melting point of 141°-142°, is obtained from acetonitrile.

reactant | 1,4-dihydro-2,6-dimethyl-4-(m-nitrophenyl)-3,5-pyridine-dicarboxylic acid monomethyl ester | 50 mmol, 16.6 g | COC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C)C | C16H16N2O6
reactant | 1-(2-bromoethoxy)-4-[2-(tertiary butoxycarbonylamino)-2-methylpropoxy]-benzene | 50 mmol, 19.4 g | BrCCOC1=CC=C(C=C1)OCC(C)(C)NC(=O)OC(C)(C)C | C17H26BrNO4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | triethylbenzylammonium chloride | 0.6 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 1,4-dihydro-2,6-dimethyl-4-(m-nitrophenyl)-pyridine-3,5-dicarboxylic acid 3-{2-[p-(2-amino-2-methylpropoxy)-phenoxy]-ethyl}-ester 5-methyl ester | COC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCOC1=CC=C(C=C1)OCC(C)(C)N)C1=CC(=CC=C1)[N+](=O)[O-] | C28H33N3O8
